US08138175B2
D) (S)-4-Oxo-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester
In analogy to the procedure described in example 1I, (S)-4-hydroxy-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester gave a mixture of 4-((S)-2-oxo-tetrahydro-furan-3-yl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one (ca 5-10%) and the title compound in 97% yield as orange oil. MS: 373.1 (MH+).

reactant | (S)-4-hydroxy-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester | COC([C@H](CCO)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C17H21F3N2O4
reactant | 4-((S)-2-oxo-tetrahydro-furan-3-yl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | O=C1OCC[C@@H]1N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F | C16H17F3N2O3
product | (S)-4-Oxo-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester | 97% yield | COC([C@H](CC=O)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C17H19F3N2O4
